US07414060B2
Step 2: 3-Bromo-6-methyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide:
To a solution 3-Amino-1-methyl-pyrazole (1.39 g, 14.3 mmol, 3.5 equiv.) in 25 ml of dry dioxane were added 7.17 ml of a 2M solution of trimethyl aluminium in hexane (14.3 mmol, 3.5 equiv.) and the mixture was stirred for 1 h at r.t. Then 3-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester (1.00 g, 4.1 mmol) were added and the reaction was refluxed for 2 h. After allowing the reaction to cool to r.t., the reaction was quenched with water (0.5 ml), stirred for 10 min, dried by addition of magnesium sulfate and filtered over Dicalite which was further washed with methylene chloride. The filtrate was concentrated in vaccuo. The residue (1.66 g, yellow oil) was purified by flash chromatography (heptane/ethyl acetate 2:3) to yield the title compound as a yellow solid (total 0.99 g, 82%), MS (ISP): m/e=295.2, 297.2 (M+H+).

reactant | 3-Amino-1-methyl-pyrazole | 14.3 mmol, 1.39 g, 3.5 equiv. | NC1=NN(C=C1)C | C4H7N3
reactant | trimethyl aluminium | C[Al](C)C
reactant | hexane | 14.3 mmol, 3.5 equiv. | CCCCCC | C6H14
reactant | 3-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester | 4.1 mmol, 1.00 g | C(C)OC(=O)C1=NC(=CC=C1Br)C | C9H10BrNO2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-Bromo-6-methyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | 0.99 g, 82% | CN1N=C(C=C1)NC(=O)C1=NC(=CC=C1Br)C | C11H11BrN4O
